datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1CC)CCCCCC.[O-:21]C>>CC1C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(OC)[NH+:10](C)C(C)C([H])N1[H]>>[NH:10](C)C(C)C([H])N([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C)([NH][H])[O][H].[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[O-:10]C(CC)C([H])C(C)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)C([H])C(CC)[O:10]1 10=20;20,21=21"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20](OCC)=[OH+:21])O)C>>[OH:21][CH:20]2(OCC)C3=C(C(C([OH+:10]2)C)O)C=CC=C3 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C([H])[S]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC1=CC=CC=C1)CC)C1=CC=CC=C1>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)C1=CC=CC=C1 10=20;20,21=21"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)C)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)C)C1=CC=CC=C1 21=20;20,10=10"
"CCN([C:20](=[O:10])OC1=CC=CC=C1)C.[O-:21][H]>>CCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21][H])C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])[H])CC)CC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CC 21=20;20,10=10"
"[NH:10](C)C([H])C([H])C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[NH+:10](C)C([H])C([H])C1C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)O[H])C1=CC=CC=C1)C1=CC=CC=C1>>C(C([O-:21])C)(C(O[C:20](=[O:10])O[H])C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C(C)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)C1=CC=CC=C1)C>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C)C>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C)[O-:10])C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[O]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
